US04855301
(B) 1,6-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-4-methyl-1-[(dimethylamino)carbonyl]-6-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester
A solution of 1,4-dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester (0.5 g, 1.1 mmole) in 10 ml of dry tetrahydrofuran under argon at 0°-5° C. was treated with pyridine (1.0 ml, 12.6 mmole), then with phosgene (1.16 ml of 12.5% in benzene, 1.47 mmol). After 0.5 hours at 0°-5° C., dimethylamine (1 ml of 40% aqueous, excess) was added. Reaction was complete within 0.5 hours. The mixture was diluted with ethyl acetate and washed with 1N hydrochloric acid, water and saturated brine. The aqueous washes were back extracted with fresh ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo to give 0.6 g of essentially homogeneous product.

reactant | 1,4-dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester | 1.1 mmole, 0.5 g | COC1=CC=C(C=C1)CSC=1NC(=C(C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C22H23N3O5S
reactant | pyridine | 12.6 mmole, 1.0 ml | N1=CC=CC=C1 | C5H5N
reactant | phosgene | 1.47 mmol, 1.16 ml | C(=O)(Cl)Cl | CCl2O
reactant | dimethylamine | 1 ml | CNC | C2H7N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,6-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-4-methyl-1-[(dimethylamino)carbonyl]-6-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester | COC1=CC=C(C=C1)CSC=1N(C(C(=C(N1)C)C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)N(C)C | C25H28N4O6S
